US07601716B2
1-(2,6-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (500 mg) was treated with 2,6-dichlorobenzyl bromide as in General Procedure 1 to give the title compound as an off-white solid. M.p.>200° C., LCMS: m/z=434.37 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 3.30 (2H, s), 5.29 (2H, s), 7.31 (1H, d, J=8.6 Hz), 7.34 (1H, d, J=7.6 Hz), 7.45 (1H, s), 7.47 (1H, s), 7.76 (1H, d, J=1.0 Hz).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 500 mg | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 2,6-dichlorobenzyl bromide | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
product | 1-(2,6-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)I)C(=CC=C1)Cl | C14H10Cl2IN3O
